2191-04-04 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Transfered from floor yesterday in the afternoon for tachypnea and
   tachycardia.
   Continuing to run high temperatures and in sinus tach.
 ULTRASOUND - At [**2191-4-3**] 04:03 PM
   LENIS
 BLOOD CULTURED - At [**2191-4-3**] 06:04 PM
 URINE CULTURE - At [**2191-4-3**] 06:04 PM
 FEVER - 103.0
F - [**2191-4-4**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-4-3**] 01:48 PM
   Vancomycin - [**2191-4-3**] 08:15 PM
   Metronidazole - [**2191-4-4**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-4**] 04:01 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-3**] 12:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-4**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 38.9
C (102
   HR: 137 (125 - 139) bpm
   BP: 122/71(84) {120/37(67) - 167/101(114)} mmHg
   RR: 29 (23 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,122 mL
                                                                    721 mL
   PO:
             TF:
                                                                     50 mL
                                                                    356 mL
   IVF:
                                                                    952 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    600 mL
   Urine:
                                                                  2,500 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,378 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: 7.54/28/104/20/3
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: cachectic, diaphoretic, in light sleep, easily
   arousable.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, NG tube
   Cardiovascular: tachycardic, hyperdynamic.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Tachypneic, diminished breath sounds anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender:
   Extremities: 2+ edema in dependent areas
   Neurologic: Attentive, Follows simple commands, however does not
   verbalize.
   Labs / Radiology
   206 K/uL
   8.0 g/dL
   110 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.7 mEq/L
   11 mg/dL
   108 mEq/L
   135 mEq/L
   23.7 %
   7.6 K/uL
        [image002.jpg]
                             [**2191-4-3**]  01:37 PM
                             [**2191-4-3**]  04:13 PM
                             [**2191-4-4**]  03:18 AM
   WBC
   7.3
   7.6
   Hct
   27.2
   23.7
   Plt
   232
   206
   Cr
   0.6
   0.6
   TropT
   0.04
   TCO2
   25
   Glucose
   102
   110
   Other labs: PT / PTT / INR:21.1/68.9/2.0, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:41/104, Alk Phos / T Bili:88/1.6,
   Differential-Neuts:82.1 %, Lymph:11.0 %, Mono:5.8 %, Eos:0.8 %, Lactic
   Acid:1.2 mmol/L, Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for acute
   tachycardia/dyspnea in setting of treatment for aspiration pneumonia.
   .
   # Tachypnea: [**Month (only) 51**] represent volume overload in setting of high output
   heart failure, vs. acute PE.  PE not unlikely given bilateral leg edema
   and signs of right heart failure and unchanged CXR.  Bilateral pleural
   effusions c/w CHF, although can
t rule out possibility of infectious
   pulmonary process given persistent fevers. Possibly [**3-7**] to chronic
   aspiration +/- infection.  Will continue vanco/zosyn and add cipro for
   resistant GNR's.  No clear benefit to flagyl at this time.
   - Hemodynamically stable for now
   - Trial of Lasix given anasarca and monitor for improvement of
   respiratory status
   - Obtain echo to evaluate systolic function, effusion, RV dysfunction.
   - LE U/S to r/o DVT
   - Obtain CTA chest to r/o PE; Will get CT head and torso together which
   will also allow for evaluation for empyema/ abcesses/ other foci of
   infection as pt may be chronically aspirating
   - nebulizers
   - Continue vanco/zosyn, add cipro for double coverage of GNR's given
   acute decompensation and consider peeling off pending sputum, clinical
   improvement, CXR findings.
   - Continue following serial VBGs to monitor resp status
   - Check NIF and vital capacity
   - Consider thoracentesis for symptomatic relief
   .
   # Tachycardia: Sinus tach by telemetry/ECG, no acute ST/Tchanges, but
   with newly low voltage.  [**Month (only) 51**] represent lead placement/soft tissue
   impedence changes, but would consider tamponade as cause for
   tachycardia (although not hypotensive, no change on CXR).  More likely
   [**3-7**] to fever, distress. Clinically appears to have been adequately
   volume-resuscitated, thus dehydration is unlikely as the source of
   tachycardia.
   - Echo for e/o RV dysfunction, effusion, systolic function.
   - control pain, anxiety/air hunger.
   - Control fever
   .
   # Fevers: Pan-cultured on arrival. Clinically aside from tachycardia
   and fever patient does not appear septic.  Lactic acid normal,
   extensive cultures negative to date, and no leukocytosis. [**Month (only) 51**] need
   thoracentesis given very large bilateral pleural effusions to improve
   respiratory status as well as r/o of empyema (although low suscipion).
   Finished 10 day course of empiric abx for PNA.
   Patient had LP previously this hospitalization that showed only 2
   WBC's, nml protein, nml glucose, and negative HSV pcr.  Skin exam not
   showing any break-down thus decub ulcer is not the source of fever. No
   rash or eosinophilia makes suspicion of drug fever low although in
   differential. With a feeding tube in place, may have occult sinusitis.
   High suspicion for ongoing aspiration given pt
s somewhat somnolent
   state and decreased ability to protect airways.
   - Nasal wash/ oral hygiene
   - consider thoracentesis.
   - pan-culture
   - continue antibiotics, and add cipro for now although unlikely
   resistant GNR at this time.
   - CT scan of head and torso for foci of infection
   - Consider repeat LP if all the above investigations negative for
   source of fever.
   .
   # Beri-Beri: Dry/Wet features, last echo hyperdynamic.
   - Continue thiamine repletion
   - Neuro following
   - Unclear if PO adequate at this time, and would consider IV
   supplementation if concern for absorption arises.
   .
   # Altered mental status:  Current deterioration in setting of
   respiratory distress and fever.  Impression on floor was for
   multifactorial etiology [**3-7**] to beri-beri, infection, liver dysfunction
   and possible seizure.  given fevers would consider LP to evaluate for
   possible CNS infection.
   - Neurology recommended repeat LP on [**2191-3-31**]
   - Original CSF profile not c/w CNS infection
   - LFTs stable.
   - Start Lactulose/rifaxamin although as per liver unlikely cause for
   change in MS.
   - Continue keppra, check level
   - [**Month (only) 51**] consider LP, EEG monitoring although exam is more c/w delerium.
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Hct stable.
   - Check PM Hct
   - Maintain Hct >21
   - F/u Echo
   - Keep an active Type and cross
   .
   # Coagulopathy: Last INR 1.8, partly nutritional with question of
   underlying liver disease.  Was with etoh hepatitis earlier this admit.
   - Vit K given
   - Monitor LFT's
   - FFP PRN
   - follow Hct.
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   .
   # FEN: No IVF, replete electrolytes, hold tube feeds for now in
   preparation of CT head/torso, restart when completed and pt alert
   enough.
   .
   # Prophylaxis: Pneumoboots, PPI
   .
   # Access: 2 peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient/ Parents
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-3**] 11:05 PM 55 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-4-3**] 01:53 PM
   22 Gauge - [**2191-4-3**] 01:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-05 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Attempted NIF and Vital Capacity, however unable to do
   - CT head - normal sinuses. no sinusitis
   - CT torso - incr'd bilateral pleural effusion, patchy consolidations
   L>R upper lobes; fluid collection near the stomach
   - Echo - normal systolic fxn, hyperdynamic. Small pericardial effusion
   - Diuresis (Lasix 40mg IV x1)- responded with 1.5 L out in 3 hours
   - Hct dropped to 21.6 --> transfused 1 pRBCs
   - NPO per speech therapy
   - MRI brain with gadolinium to evaluate fluid collection- has decreased
   in size, no abscesses.
   - ID consult obtained; recommends thoracentesis (pt will need FFP
   depending on INR)
   - O2 supplement able to be weaned down to 4L NC with sats in high 90s.
   - Has a rectal tube as pt having large amounts of liquid diarrhea
 MULTI LUMEN - START [**2191-4-4**] 04:53 PM
 MAGNETIC RESONANCE IMAGING - At [**2191-4-4**] 09:00 PM
 FEVER - 103.1
F - [**2191-4-4**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-4-3**] 01:48 PM
   Metronidazole - [**2191-4-4**] 02:00 AM
   Vancomycin - [**2191-4-4**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-5**] 04:07 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-4**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-5**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 38.1
C (100.5
   HR: 121 (119 - 137) bpm
   BP: 149/91(105) {106/58(68) - 161/96(106)} mmHg
   RR: 24 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 12 (12 - 14)mmHg
   Total In:
                                                                  2,313 mL
                                                                    925 mL
   PO:
   TF:
                                                                    950 mL
                                                                    290 mL
   IVF:
                                                                  1,144 mL
                                                                    165 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,015 mL
                                                                    590 mL
   Urine:
                                                                  3,015 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -702 mL
                                                                    336 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.48/31/168/23/1
   Physical Examination
   General Appearance: cachectic, diaphoretic, shivering lightly. .
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds
   Abdominal: Soft, Non-tender, Bowel sounds present; rectal tube in
   place, draining dark brown liquid stools
   Extremities: 2+ edema in dependent areas
   Neurologic: waxing and [**Doctor Last Name 533**] mental status; not following simple
   commands this morning. Mumbling/groaning.
   Labs / Radiology
   213 K/uL
   8.9 g/dL
   106 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   14 mg/dL
   104 mEq/L
   132 mEq/L
   26.0 %
   8.5 K/uL
        [image002.jpg]
                             [**2191-4-3**]  01:37 PM
                             [**2191-4-3**]  04:13 PM
                             [**2191-4-4**]  03:18 AM
                             [**2191-4-4**]  03:17 PM
                             [**2191-4-4**]  04:11 PM
                             [**2191-4-5**]  03:52 AM
   WBC
   7.3
   7.6
   8.5
   Hct
   27.2
   23.7
   21.6
   26.0
   Plt
   232
   206
   213
   Cr
   0.6
   0.6
   0.7
   0.6
   TropT
   0.04
   TCO2
   25
   24
   Glucose
   102
   110
   107
   106
   Other labs: PT / PTT / INR:22.3/52.6/2.1, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:43/104, Alk Phos / T Bili:82/2.4,
   Amylase / Lipase:69/205, Differential-Neuts:83.7 %, Lymph:10.1 %,
   Mono:4.5 %, Eos:1.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.0 g/dL,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for acute
   tachycardia/dyspnea in setting of treatment for aspiration pneumonia.
   .
   # Tachypnea: Pt has a large bilateral pleural effusion which is likely
   the main reason for tachypnea. This bilateral pleural effusion, which
   increased in size per most recent imaging, is most probably due to
   heart failure from wet beri-beri, although an occult infectious process
   such as an empyema cannot be excluded.
   - Suspicion of PE: CTA was done last night which showed no PE, although
   limited by motion.
   - Suspicion of pericardial effusion/tamponade physiology (low voltage
   on EKG): Echo showing normal systolic fxn, hyperdynamic. Small
   pericardial effusion.
   - NIF and Vital Capacity attempted to evaluate neuromuscular component
   of tachypnea however pt was unable to tolerate it.
   - A trial of small dose Lasix was undertaken yesterday for gentle
   diuresis (pt responded with 1.5 L UOP in 3 hours)
 no definite
   evidence of improvement in respiratory status, although pt has been
   weaned down to 4L O2 by nasal cannula over the course of the night.
   - Lasix x 1 again today for diuresis since pt is grossly volume
   overloaded
   - Likely, pt is a chronic aspirator and may have a PNA hidden by the
   large pleural effusion. Will continue Vanco/Zosyn/Cipro for empiric
   coverage. Will need bilateral thoracentesis for diagnostic and
   therapeutic purposes. (Will give 2u FFP first to reverse coagulopathy)
   - Continue nebulizers PRN, serial VBGs to monitor resp status
   - Tachycardia likely related to underlying process of fever, infection.
   Hemodynamically stable currently.
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage. Not
   septic as pt maintaining BPs, lactic acid normal, negative cultures to
   date, WBC WNL. Patient had LP previously this hospitalization that
   showed only 2 WBC's, nml protein, nml glucose, and negative HSV pcr. No
   rash or eosinophilia makes suspicion of drug fever lower although in
   still differential.
   - [**Month (only) 51**] need thoracentesis as above.
   - Continue abx as above
   - Suspicion of occult sinusitis given the feeding tube, CT was
   obtained: normal sinuses, no sinusitis
   - Suspicion of occult infectious processes in lungs and abdomen, CT
   torso was obtained: limited by motion, splenomegaly. 4.6x2.8x2.3 cm
   fluid collection in stomach
 need to discuss what this is with
   radiology
   - Suspicion of infectious process in the brain (fluid collection seen
   on previous imaging), MRI with gad done: fluid collection actually
   smaller now; no abscess.
   - f/u final reads of imaging studies from yesterday
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Monitor pt
s ability to protect airways given his waxing and [**Doctor Last Name 533**]
   mental status and extreme muscle weakness
   - Consider repeat LP if all the above investigations negative for
   source of fever.
   - F/u ID recs
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Hct slowly trending downward, 21.5 last night and
   was transfused 1 u pRBC.
   - Maintain Hct >21
   - Keep an active type and cross
   - Change PPI from Qday to [**Hospital1 7**]
   .
   # Altered mental status:  Current deterioration in setting of
   respiratory distress and fever.  Impression on floor was for
   multifactorial etiology [**3-7**] to beri-beri, infection, liver dysfunction
   and possible seizure.  LP done earlier this admission: CSF profile not
   c/w CNS infection
   - LFTs stable.
   - No need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Check seizure history and indications for continuing Keppra.
   - Simplify medication list to minimize chance of medications affecting
   mental status
   - [**Month (only) 51**] consider LP, EEG monitoring although exam is more c/w delerium.
   .
   # Hyponatremia:
   - Unlikely hypovolemic hyponatremia as CVP ranging [**1-19**]. Hypervolemic
   hyponatremia is equally unlikely given that pt was actually diuresed
   overnight and pt wasn
t hyponatremic before.
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - Check TSH and Cortisol
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue thiamine repletion
   - Neuro signed off
   .
   # Coagulopathy: INR 2.1 this AM. Likely due to alcoholic liver disease
   and malnutrition. Vit K given during this admission.
   - Will need FFP before thoracentesis to reverse coagulopathy.
   - follow Hct.
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   .
   # FEN: No IVF, replete electrolytes, on tube feeds.
   .
   # Prophylaxis: Pneumoboots, PPI
   .
   # Access: Left subclavian (placed [**4-4**]), 2 peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient/ Parents; Will discuss today
s planned
   thoracentesis with parents who will be visiting the patient today.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-5**] 01:13 AM 55 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-4-3**] 01:53 PM
   22 Gauge - [**2191-4-3**] 01:53 PM
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-06 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diagnostic and therapeutic thoracenteses on R and L: transudative
   - Got Lasix 40mg IV x2 with UOP 350/hr x2h.
   - Neuro Recs: Likely Central Pontine Myelinolysis. Even though
   low-suspicion for stroke, obtain CTA or MRA to rule out vascular cause
   of pontine lesion. Continue Keppra until outpatient neuro f/u
   - Neurosurg Recs: Obtain low volume LP if pleural fluid cx
   non-revealing for infection. Draining subdural collection would be last
   resort given patient's morbidity.
   - ID Recs: Continue vanc/zosyn/cipro. Consider CT-guided drainage of
   Abd fluid collection. Send pleural fluid for AFB, [**Doctor First Name 80**], fungal culture.
   Send HIV viral load.
 THORACENTESIS - At [**2191-4-5**] 02:36 PM
 THORACENTESIS - At [**2191-4-5**] 05:00 PM
   L side
 FEVER - 103.1
F - [**2191-4-5**] 06:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2191-4-3**] 01:48 PM
   Metronidazole - [**2191-4-4**] 02:00 AM
   Vancomycin - [**2191-4-5**] 08:33 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-6**] 04:03 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-5**] 10:21 PM
   Pantoprazole (Protonix) - [**2191-4-5**] 10:22 PM
   Meperidine (Demerol) - [**2191-4-6**] 02:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-6**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 39.2
C (102.6
   HR: 131 (122 - 136) bpm
   BP: 116/57(69) {111/57(69) - 160/95(103)} mmHg
   RR: 36 (20 - 40) insp/min
   SpO2: 91%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 6 (-2 - 18)mmHg
   Total In:
                                                                  3,154 mL
                                                                    622 mL
   PO:
   TF:
                                                                    924 mL
                                                                    391 mL
   IVF:
                                                                    950 mL
                                                                    171 mL
   Blood products:
                                                                    890 mL
   Total out:
                                                                  2,020 mL
                                                                    800 mL
   Urine:
                                                                  1,720 mL
                                                                    800 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,134 mL
                                                                   -178 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 91%
   ABG: ///25/
   Physical Examination
   General Appearance: cachectic, diaphoretic, shivering lightly. .
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds
   Abdominal: Soft, Non-tender, Bowel sounds present; rectal tube in
   place, draining dark brown liquid stools
   Extremities: 2+ edema in dependent areas
   Neurologic: waxing and [**Doctor Last Name 533**] mental status; not following simple
   commands this morning. Mumbling/groaning.
   Labs / Radiology
   195 K/uL
   8.9 g/dL
   106 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.2 mEq/L
   15 mg/dL
   104 mEq/L
   135 mEq/L
   25.4 %
   9.4 K/uL
        [image002.jpg]
                             [**2191-4-3**]  01:37 PM
                             [**2191-4-3**]  04:13 PM
                             [**2191-4-4**]  03:18 AM
                             [**2191-4-4**]  03:17 PM
                             [**2191-4-4**]  04:11 PM
                             [**2191-4-5**]  03:52 AM
                             [**2191-4-6**]  03:23 AM
   WBC
   7.3
   7.6
   8.5
   9.4
   Hct
   27.2
   23.7
   21.6
   26.0
   25.4
   Plt
   232
   206
   213
   195
   Cr
   0.6
   0.6
   0.7
   0.6
   0.7
   TropT
   0.04
   TCO2
   25
   24
   Glucose
   102
   110
   107
   106
   106
   Other labs: PT / PTT / INR:20.9/45.2/2.0, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:41/90, Alk Phos / T Bili:85/1.6, Amylase
   / Lipase:63/162, Differential-Neuts:83.7 %, Lymph:10.1 %, Mono:4.5 %,
   Eos:1.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL, LDH:272 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   CT head [**4-4**] Final read: normal sinuses
   CTA chest and abdomen: only prelim read available (see yesterday
   progress note)
   MRI head [**4-4**] Final read
   IMPRESSION:
   1. Small subdural collection along the left convexity has decreased in
   size,
   but increased in complexity and viscosity. Evaluation for associated
   contrast
   enhancement is technically limited.
   2. New nonspecific signal abnormality in the central pons, which may
   represent a subacute infarction or central pontine myelinolysis.
   Infectious
   and inflammatory causes should also be considered. The location of this
   lesion does not correspond to typical or atypical manifestations of
   Wernicke
   encephalopathy.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPNEA (SHORTNESS OF BREATH)
 TACHYCARDIA, OTHER
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for acute
   tachycardia/dyspnea in setting of treatment for aspiration pneumonia.
   .
   # Tachypnea: Pt has a large bilateral pleural effusion which is likely
   the main reason for tachypnea. This bilateral pleural effusion, which
   increased in size per most recent imaging, is most probably due to
   heart failure from wet beri-beri, although an occult infectious process
   such as an empyema cannot be excluded.
   - Suspicion of PE: CTA was done last night which showed no PE, although
   limited by motion.
   - Suspicion of pericardial effusion/tamponade physiology (low voltage
   on EKG): Echo showing normal systolic fxn, hyperdynamic. Small
   pericardial effusion.
   - NIF and Vital Capacity attempted to evaluate neuromuscular component
   of tachypnea however pt was unable to tolerate it.
   - A trial of small dose Lasix was undertaken yesterday for gentle
   diuresis (pt responded with 1.5 L UOP in 3 hours)
 no definite
   evidence of improvement in respiratory status, although pt has been
   weaned down to 4L O2 by nasal cannula over the course of the night.
   - Lasix x 1 again today for diuresis since pt is grossly volume
   overloaded
   - Likely, pt is a chronic aspirator and may have a PNA hidden by the
   large pleural effusion. Will continue Vanco/Zosyn/Cipro for empiric
   coverage. Will need bilateral thoracentesis for diagnostic and
   therapeutic purposes. (Will give 2u FFP first to reverse coagulopathy)
   - Continue nebulizers PRN, serial VBGs to monitor resp status
   - Tachycardia likely related to underlying process of fever, infection.
   Hemodynamically stable currently.
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage. Not
   septic as pt maintaining BPs, lactic acid normal, negative cultures to
   date, WBC WNL. Patient had LP previously this hospitalization that
   showed only 2 WBC's, nml protein, nml glucose, and negative HSV pcr. No
   rash or eosinophilia makes suspicion of drug fever lower although in
   still differential.
   - [**Month (only) 51**] need thoracentesis as above.
   - Continue abx as above
   - Suspicion of occult sinusitis given the feeding tube, CT was
   obtained: normal sinuses, no sinusitis
   - Suspicion of occult infectious processes in lungs and abdomen, CT
   torso was obtained: limited by motion, splenomegaly. 4.6x2.8x2.3 cm
   fluid collection in stomach
 need to discuss what this is with
   radiology
   - Suspicion of infectious process in the brain (fluid collection seen
   on previous imaging), MRI with gad done: fluid collection actually
   smaller now; no abscess.
   - f/u final reads of imaging studies from yesterday
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Monitor pt
s ability to protect airways given his waxing and [**Doctor Last Name 533**]
   mental status and extreme muscle weakness
   - Consider repeat LP if all the above investigations negative for
   source of fever.
   - F/u ID recs
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Hct slowly trending downward, 21.5 last night and
   was transfused 1 u pRBC.
   - Maintain Hct >21
   - Keep an active type and cross
   - Change PPI from Qday to [**Hospital1 7**]
   .
   # Altered mental status:  Current deterioration in setting of
   respiratory distress and fever.  Impression on floor was for
   multifactorial etiology [**3-7**] to beri-beri, infection, liver dysfunction
   and possible seizure.  LP done earlier this admission: CSF profile not
   c/w CNS infection
   - LFTs stable.
   - No need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Check seizure history and indications for continuing Keppra.
   - Simplify medication list to minimize chance of medications affecting
   mental status
   - [**Month (only) 51**] consider LP, EEG monitoring although exam is more c/w delerium.
   .
   # Hyponatremia:
   - Unlikely hypovolemic hyponatremia as CVP ranging [**1-19**]. Hypervolemic
   hyponatremia is equally unlikely given that pt was actually diuresed
   overnight and pt wasn
t hyponatremic before.
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - Check TSH and Cortisol
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue thiamine repletion
   - Neuro signed off
   .
   # Coagulopathy: INR 2.1 this AM. Likely due to alcoholic liver disease
   and malnutrition. Vit K given during this admission.
   - Will need FFP before thoracentesis to reverse coagulopathy.
   - follow Hct.
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.
   .
   # Prophylaxis: Pneumoboots, PPI
   .
   # Access: Left subclavian (placed [**4-4**]), 2 peripherals
   .
   # Code: presumed full
   .
   # Communication: Patient/ Parents; Will discuss today
s planned
   thoracentesis with parents who will be visiting the patient today.
   .
   # Disposition: pending above
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-5**] 08:03 PM 55 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-4-3**] 01:53 PM
   22 Gauge - [**2191-4-3**] 01:53 PM
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-07 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro recs: Q4H neuro checks, repeat MRI 1 week after prior
   - ID recs: check C. diff, consider d/c abx if pleural fluid cx neg,
   consider repeat LP if w/u negative
   - [**Last Name (un) **] stim test performed with appropriate bump (15.8->26.4->32.0)
 MAGNETIC RESONANCE IMAGING - At [**2191-4-6**] 10:28 AM
 FEVER - 102.4
F - [**2191-4-6**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-6**] 08:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-7**] 04:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-7**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.9
C (98.4
   HR: 121 (112 - 132) bpm
   BP: 129/85(94) {107/59(73) - 142/90(94)} mmHg
   RR: 36 (26 - 40) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 11 (0 - 18)mmHg
   Total In:
                                                                  2,626 mL
                                                                    620 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    389 mL
   IVF:
                                                                  1,141 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,721 mL
                                                                    285 mL
   Urine:
                                                                  1,421 mL
                                                                    285 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                    905 mL
                                                                    335 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   183 K/uL
   8.3 g/dL
   133 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   17 mg/dL
   105 mEq/L
   133 mEq/L
   24.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2191-4-3**]  01:37 PM
                             [**2191-4-3**]  04:13 PM
                             [**2191-4-4**]  03:18 AM
                             [**2191-4-4**]  03:17 PM
                             [**2191-4-4**]  04:11 PM
                             [**2191-4-5**]  03:52 AM
                             [**2191-4-6**]  03:23 AM
                             [**2191-4-6**]  02:59 PM
                             [**2191-4-7**]  03:44 AM
   WBC
   7.3
   7.6
   8.5
   9.4
   11.5
   Hct
   27.2
   23.7
   21.6
   26.0
   25.4
   24.5
   Plt
   232
   206
   213
   195
   183
   Cr
   0.6
   0.6
   0.7
   0.6
   0.7
   0.7
   0.6
   TropT
   0.04
   TCO2
   25
   24
   Glucose
   102
   110
   107
   106
   106
   137
   133
   Other labs: PT / PTT / INR:20.7/41.4/1.9, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:37/73, Alk Phos / T Bili:105/1.4,
   Amylase / Lipase:63/193, Differential-Neuts:83.7 %, Lymph:10.1 %,
   Mono:4.5 %, Eos:1.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:259 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for acute
   tachycardia/dyspnea in setting of treatment for aspiration pneumonia.
   .
   # Tachypnea: Pt has a large bilateral pleural effusion which is likely
   the main reason for tachypnea. Tachycardia likely related to underlying
   process of fever, infection. Hemodynamically stable currently.  Pleural
   effusion was drained yesterday. (2L total bilaterally)
   - f/u pleural fluid labs (transudative appearing so far)
   **Investigation for other possible etiology of tachypnea/ tachycardia
   so far:
   - Suspicion of PE: CTA was done
 no PE, although limited by motion.
   - Suspicion of pericardial effusion/tamponade physiology (low voltage
   on EKG): Echo showing normal systolic fxn, hyperdynamic. Small
   pericardial effusion.
   - NIF and Vital Capacity attempted to evaluate neuromuscular component
   of tachypnea however pt was unable to tolerate it.
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage. Not
   septic as pt maintaining BPs, lactic acid normal, negative cultures to
   date, WBC WNL. Patient had LP previously this hospitalization that
   showed only 2 WBC's, nml protein, nml glucose, and negative HSV pcr. No
   rash or eosinophilia makes suspicion of drug fever lower although in
   still differential.
   **Investigation for infection source so far:
   - Suspicion of occult sinusitis given the feeding tube, CT was
   obtained: normal sinuses, no sinusitis
   - Suspicion of occult infectious processes in lungs and abdomen, CT
   torso was obtained: limited by motion, splenomegaly. 4.6x2.8x2.3 cm
   fluid collection in stomach ->> cannot be drained by IR (too risky due
   to other overlying structures); will do an U/S and do a diagnostic para
   if there is any ascites.
   - Suspicion of infectious process in the brain (fluid collection seen
   on previous imaging), MRI with gad done: not abscess; but there is a
   new nonspecific lesion in pons that is c/w central pontine myelinolysis
   or subacute infarction
 MRA of brain ordered.
   - f/u pleural fluid labs
   - Continue Vanc, Zosyn and Cipro (for PNA/ also gives good CNS coverage
   if + brain abscess)- On day 12 of 14 today
   - f/u final reads of imaging studies from [**4-4**]
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Monitor pt
s ability to protect airways given his waxing and [**Doctor Last Name 533**]
   mental status and extreme muscle weakness
   - Consider repeat LP if all the above investigations negative for
   source of fever. However likely low yield, and pt is coagulopathic.
   - F/u ID, neuro, and neurosurg recs
   - [**Month (only) 51**] be central (CNS) in etiology, however it
s a diagnosis of
   exclusion
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Hct slowly trending downward, 21.5 last night and
   was transfused 1 u pRBC.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI [**Hospital1 7**]
   .
   # Altered mental status:  Current deterioration in setting of
   respiratory distress and fever.  Impression on floor was for
   multifactorial etiology [**3-7**] to beri-beri, infection, liver dysfunction
   and possible seizure.  LP done earlier this admission: CSF profile not
   c/w CNS infection
   - appreciate neuro recs
   - LFTs stable.
   - No need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Continue Keppra until outpt f/u with neuro
   - Simplify medication list to minimize chance of medications affecting
   mental status
   - [**Month (only) 51**] consider LP, EEG monitoring although exam is more c/w delerium.
   .
   # Hyponatremia:
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - TSH WNL
   - Cortisol indeterminate; will [**First Name8 (NamePattern2) **] [**Last Name (un) 402**] stim test
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue thiamine repletion
   .
   # Coagulopathy: INR 2.1 this AM. Likely due to alcoholic liver disease
   and malnutrition. Vit K given during this admission.
   - Will need FFP before procedures to reverse coagulopathy
   - follow Hct.
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.
   .
   # Prophylaxis: Pneumoboots, PPI; PT consult placed; try to get pt OOB
   to chair
   .
   # Access: Left subclavian (placed [**4-4**]), 2 peripherals
   .
   # Code: full
   .
   # Communication: Patient/ Parents
   .
   # Disposition: pending above
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 39M EtOH abuse, severe thiamine deficiency,
   weakness, HAP readmitted with fevers and tachypnea. B thoracenteses
   yesterday, transudates. MRI with abnormality in pons, f/u MRI read
   pending.
   Exam notable for Tm 103.1 BP 120/70 HR 120-130 RR 28-32 with sat 97 on
   4LNC. CVP 12-15. Frail, dysarthric man, denies pain though speech is
   difficult to understand. CTA B. RRR s1s2 hyperdynamic. Soft +BS. 1+
   edema. Labs notable for WBC 7K, HCT 23, K+ 3.7, Cr 0.6. CXR with low
   volumes, R effusion, interstitial prominence.
   Agree with plan to manage respiratory distress with broad antibiotic
   coverage x 14 days (day 12 today) for nosocomial aspiration pneumonia,
   supplemental oxygen, and gentle diuresis given effusions and elevated
   CVP. For fevers, will f/u CT reads w/r/t peripancreatic collection and
   discuss fluid sampling with ID and IR; will also check USG for ?
   ascites. Will hold off on drainage of intracranial collection, and will
   f/u repeat MRI re pons lesion. Continue thamine for beriberi as well as
   nutritional support via NGT and check [**Last Name (un) 402**] stim for low sodium and
   latered mental status. Mental status and strength somewhat better
   today, consult PT, OOB. For anemia, likely combination of slow GIB and
   critical illness. Will continue to follow serial HCT and maintain HCT
   >21. Continue PNBTS, PPI [**Hospital1 7**]. Remainder of plan as outlined above.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-6**] 01:45 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-07 11:28:00 Physician Attending Progress Note
Chief Complaint: Beriberi
   Fever--Unknown origin
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   MRI without source for fever
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2191-4-6**] 10:28 AM
 FEVER - 102.4
F - [**2191-4-6**] 08:00 AM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-7**] 04:00 AM
   Vancomycin - [**2191-4-7**] 08:22 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-7**] 08:22 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dry and intermittent
   Flowsheet Data as of  [**2191-4-7**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.1
C (100.6
   HR: 122 (112 - 132) bpm
   BP: 146/93(98) {107/59(73) - 146/93(98)} mmHg
   RR: 29 (26 - 42) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
   CVP: 8 (3 - 18)mmHg
   Total In:
                                                                  2,627 mL
                                                                  1,171 mL
   PO:
   TF:
                                                                  1,322 mL
                                                                    610 mL
   IVF:
                                                                  1,141 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                  1,721 mL
                                                                    649 mL
   Urine:
                                                                  1,421 mL
                                                                    449 mL
   NG:
   Stool:
                                                                    300 mL
                                                                    200 mL
   Drains:
   Balance:
                                                                    906 mL
                                                                    522 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: Right base, Rhonchorous: Bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   183 K/uL
   133 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.5 mEq/L
   17 mg/dL
   105 mEq/L
   133 mEq/L
   24.5 %
   11.5 K/uL
        [image002.jpg]
                             [**2191-4-3**]  01:37 PM
                             [**2191-4-3**]  04:13 PM
                             [**2191-4-4**]  03:18 AM
                             [**2191-4-4**]  03:17 PM
                             [**2191-4-4**]  04:11 PM
                             [**2191-4-5**]  03:52 AM
                             [**2191-4-6**]  03:23 AM
                             [**2191-4-6**]  02:59 PM
                             [**2191-4-7**]  03:44 AM
   WBC
   7.3
   7.6
   8.5
   9.4
   11.5
   Hct
   27.2
   23.7
   21.6
   26.0
   25.4
   24.5
   Plt
   232
   206
   213
   195
   183
   Cr
   0.6
   0.6
   0.7
   0.6
   0.7
   0.7
   0.6
   TropT
   0.04
   TCO2
   25
   24
   Glucose
   102
   110
   107
   106
   106
   137
   133
   Other labs: PT / PTT / INR:20.7/41.4/1.9, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:37/73, Alk Phos / T Bili:105/1.4,
   Amylase / Lipase:63/193, Differential-Neuts:83.7 %, Lymph:10.1 %,
   Mono:4.5 %, Eos:1.5 %, Lactic Acid:1.0 mmol/L, Albumin:2.1 g/dL,
   LDH:259 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR-MIld increase in left sided effusion
   Microbiology: C. Diff neg x1
   Thoracentesis--no growth to date
   Assessment and Plan
   39 yo male with beriberi now with prolonged ICU course complicated by
   persistent fever and tachycardia.  His source remains to be defined
   with investigations to date unrevealing---of some concern his WBC count
   has shown a mild trend to increase over time.  The only localizing
   findings today would suggest possible increase in ronchi on lung exam.
   In addition
patient has worsening cough over past two days.  In
   addition he has evolution of bilateral patchy opacities consistent with
   parenchymal infiltrates that have progressed.  Differential diagnosis
   is extensive still but I would add
Oraganizing pneumonitis,
   eosinophillic pneumonia and possible alveolar hemorrhage are all
   consistent with parts of the current clinical course or persistent
   dyspnea and worsening infiltrates on antibiotics.
   Fever-If we look to pulmonary source as possible source of persistent
   fevers in the setting of worsening infiltrates.  It is difficult to say
   with certainty that antibiotics are aiding in course and would argue
   that current course of >10 days antibiotics has been reasonable course.
   -Would pursue fungal cultures/viral cultures
   -Vanco/Zosyn/Cipro to D/C today
   -Tylenol 500mg q 4 hours
   -Will need to consider CT following trial of Lasix to treat any
   component of hydrostatic edeam.  [**Month (only) 51**] need to consider bronch for EOS or
   RBC
s to define source if clear answer not seen following intervention
   this morning and CT given clear worsening of infiltrates.
   BeriBeri-
   -Thiamine/Folate
   Anemia-
   -Will keep HCT at 21 minimum for goal
   Altered Mental Status-
   _Patient responsive and appropriate today
   -Will continue Keppra
 IMPAIRED SKIN INTEGRITY
 AIRWAY CLEARANCE, IMPAIRED
 BALANCE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 POSTURE, IMPAIRED
 VENTILATION, IMPAIRED
 COUGH, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 DYSPNEA (SHORTNESS OF BREATH)
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-7**] 07:53 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2191-04-08 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT chest:
   1. Worsening bilateral symmetrical mostly perihilar consolidation in
   both upper lobes and right middle lobe, likely due to pulmonary edema.
   Extensive consolidation within both lower lobes could potentially
   reflect developing ARDS. Multifocal rapidly progressing multifocal
   pneumonia and pulmonary hemorrhage are also in the differential.
   2. Improvement of bilateral nonhemorrhagic pleural effusions, now
   moderate.
   3. Possible anemia.
   4. Ascites.
   - Intubated @16:15 for respiratory distress and bronchoscopy.
   - BAL Right upper and middle lobe. Airways not inflamed, not indicative
   of aspiration. Fluid cloudy & pink, sent for cell count, cytology,
   hemosiderin-laden mphages, and infectious workup.
   - A Line placed (right radial).
   - ID agreed with discontinuation of all antibiotics
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-7**] 08:22 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-7**] 11:15 AM
   Ciprofloxacin - [**2191-4-7**] 12:30 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-7**] 08:22 AM
   Furosemide (Lasix) - [**2191-4-7**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-7**] 09:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-8**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.6
C (99.7
   HR: 99 (99 - 130) bpm
   BP: 113/54(72) {113/51(72) - 135/71(92)} mmHg
   RR: 18 (15 - 48) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 26 (8 - 26)mmHg
   Total In:
                                                                  2,227 mL
                                                                    749 mL
   PO:
   TF:
                                                                  1,031 mL
                                                                    404 mL
   IVF:
                                                                    751 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  1,207 mL
                                                                    290 mL
   Urine:
                                                                  1,007 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,020 mL
                                                                    459 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.36/46/151/23/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 302
   Physical Examination
   General Appearance: cachectic, intubated and sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, ETT
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds, +rhonchi
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present; rectal tube in
   place, draining dark brown liquid stools
   Extremities: 2+ edema in dependent areas
   Neurologic: sedated
   Labs / Radiology
   212 K/uL
   8.5 g/dL
   149 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.5 mEq/L
   22 mg/dL
   109 mEq/L
   136 mEq/L
   24.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2191-4-6**]  03:23 AM
                             [**2191-4-6**]  02:59 PM
                             [**2191-4-7**]  03:44 AM
                             [**2191-4-7**]  03:24 PM
                             [**2191-4-7**]  03:58 PM
                             [**2191-4-7**]  06:37 PM
                             [**2191-4-7**]  08:27 PM
                             [**2191-4-8**]  02:35 AM
                             [**2191-4-8**]  02:50 AM
                             [**2191-4-8**]  06:35 AM
   WBC
   9.4
   11.5
   12.7
   Hct
   25.4
   24.5
   24.6
   Plt
   195
   183
   212
   Cr
   0.7
   0.7
   0.6
   0.6
   0.5
   TCO2
   26
   25
   24
   26
   27
   Glucose
   106
   137
   133
   146
   149
   Other labs: PT / PTT / INR:20.5/45.6/1.9, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:37/73, Alk Phos / T Bili:105/1.4,
   Amylase / Lipase:63/193, Differential-Neuts:83.7 %, Lymph:10.1 %,
   Mono:4.5 %, Eos:1.5 %, Lactic Acid:0.9 mmol/L, Albumin:2.1 g/dL,
   LDH:259 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for acute
   tachycardia/dyspnea, persistent fevers in setting of treatment for
   aspiration pneumonia.
   .
   # Tachypnea: Pt has a moderate bilateral pleural effusion which is
   likely the main reason for tachypnea. Tachycardia likely related to
   underlying process of fever, infection. Hemodynamically stable
   currently.
   - f/u pleural fluid labs (transudative appearing so far, cultures NGTD)
   - Infection work up as below
   - Intubated [**4-7**] for resp distress, worsening ABG c/w fatigue
   - BAL for worsening Chest CT findings
 F/U results
 if pos for
   hemosiderin-laden Macros, then check ANCA, anti-basement membrane
   - Attempt PSV/CPAP, wean sedation for NIF trial, keep TV low (400cc)
   for poss ARDS
   - Hold Tylenol
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage. Now
   afebrile off all ATBx could represent drug fever
   **Investigation for infection source so far:
   - C. diff neg x 2
   - fluid collection in stomach, however not amenable to drainage due to
   location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   hold off on working it up further
   - pleural fluid labs
 so far NGTD
   - D/c all antibiotics for ? drug fever
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Consider repeat LP if all the above investigations negative for
   source of fever. However likely low yield, and pt is coagulopathic.
   - F/u ID, neuro, and neurosurg recs
   - [**Month (only) 51**] be central (CNS) in etiology, however it
s a diagnosis of
   exclusion; unlikely since MRI brain did not show any bilateral
   hypothalamic lesions, lesss likely
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Likely having a very slow GI bleed.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI [**Hospital1 7**]
   .
   # Altered mental status:  Multiple etiologies
 delirium from current
   acute illness, ICU setting, liver dysfunction and central pontine
   myelinolysis.
   - central pontine myelinolysis seen MRI brain [**2191-4-5**]. MRA is okay,
   ruling out ischemic etiology. Likely due to fast correction of
   hyponatremia on admission. Appreciate neuron recs; unfortunately, it
   an irreversible process. Can cause visual problems.
   - [**Name2 (NI) **] need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Continue Keppra until outpt f/u with neuron for question of seizure
   activity on the floor
   - Simplify medication list to minimize chance of medications affecting
   mental status
   .
   # Hyponatremia: Was stable in low 130s. Now improving to mid-130s
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue thiamine repletion
   .
   # Coagulopathy: INR stable around 2. Likely due to alcoholic liver
   disease and malnutrition. Vit K given during this admission.
   - Will need Vit K and FFP before procedures to reverse coagulopathy
   - follow Hct.
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt.
   .
   # Access: Left subclavian (placed [**4-4**]), A-line
   .
   # Code: full
   .
   # Communication: Patient/ Parents
   .
   # Disposition: Pending above, consider trach/PEG if no improvement by
   next week
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Arterial Line - [**2191-4-7**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-09 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   - BAL Cultures - negative for [** 476**], pneumocystis. NGTD.
   - NIF = -25
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-7**] 08:22 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-7**] 11:15 AM
   Ciprofloxacin - [**2191-4-7**] 12:30 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-8**] 08:50 AM
   Heparin Sodium (Prophylaxis) - [**2191-4-8**] 02:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-9**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 115 (102 - 123) bpm
   BP: 137/72(95) {111/53(72) - 147/81(102)} mmHg
   RR: 24 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 6 (2 - 13)mmHg
   Total In:
                                                                  2,908 mL
                                                                    421 mL
   PO:
   TF:
                                                                  1,961 mL
                                                                    394 mL
   IVF:
                                                                    427 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    330 mL
   Urine:
                                                                    820 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,088 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 529 (463 - 569) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.46/39/138/29/4
   NIF: -25 cmH2O
   Ve: 10.9 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: cachectic, intubated and sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, ETT
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds, +rhonchi
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: 2+ edema in dependent areas
   Neurologic: opens eyes to voice
   Labs / Radiology
   237 K/uL
   8.5 g/dL
   124 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.4 mEq/L
   25 mg/dL
   109 mEq/L
   135 mEq/L
   25.1 %
   10.0 K/uL
        [image002.jpg]
                             [**2191-4-7**]  03:24 PM
                             [**2191-4-7**]  03:58 PM
                             [**2191-4-7**]  06:37 PM
                             [**2191-4-7**]  08:27 PM
                             [**2191-4-8**]  02:35 AM
                             [**2191-4-8**]  02:50 AM
                             [**2191-4-8**]  06:35 AM
                             [**2191-4-8**]  12:49 PM
                             [**2191-4-9**]  05:02 AM
                             [**2191-4-9**]  05:16 AM
   WBC
   12.7
   10.0
   Hct
   24.6
   25.1
   Plt
   212
   237
   Cr
   0.6
   0.5
   0.4
   TCO2
   26
   25
   24
   26
   27
   25
   29
   Glucose
   146
   149
   124
   Other labs: PT / PTT / INR:17.5/38.5/1.6, Lactic Acid:0.8 mmol/L,
   Ca++:8.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Resp viral screen uninterpretable due to lack of cells; C. diff neg x
   2; urine culture negative
   BAL: neg for fungus, PCP, [**Name10 (NameIs) 476**], bacterial growth; thoracentesis
   fluid no growth to date
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for acute
   tachycardia/dyspnea, persistent fevers in setting of treatment for
   aspiration pneumonia.
   .
   # Tachypnea / Respiratory distress: Patient with good RSBI and NIF this
   am, however, he appears to be more weak peripherally and concern that
   if he were extubated he would tire quickly and require reintubation.
   CXR is somewhat improved this morning and bilateral pleural effusions
   appear improved.   No evidence of underlying infection currently and
   pleural fluid from thoracentesis was transudative.  [**Month (only) 51**] also be a
   central component.
   - BAL for worsening Chest CT findings
 F/U results
 if pos for
   hemosiderin-laden Macros, then check ANCA, anti-basement membrane:
   pathology still pending.  ANCA and anti-GBM ordered and results
   pending.
   - Attempt PSV/CPAP, wean sedation for NIF trial, keep TV low (400cc)
   for poss ARDS
   - Hold Tylenol
   .
   # Tachycardia: Not fluid responsive.  Likely related to fever,
   cardiomyopathy, and underlying central disease.
   .
   # Altered mental status:  Multiple etiologies
 chronic EtOH ingestion,
   delirium from current acute illness, ICU setting, liver dysfunction and
   possible central pontine myelinolysis.
   - central pontine myelinolysis seen MRI brain [**2191-4-5**]. MRA is okay,
   ruling out ischemic etiology. Likely due to fast correction of
   hyponatremia on admission. Appreciate neuron recs; unfortunately, it
   an irreversible process. Can cause visual problems.
   - [**Name2 (NI) **] need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Continue Keppra until outpt f/u with neuron for question of seizure
   activity on the floor
   - Simplify medication list to minimize chance of medications affecting
   mental status
   - continue nutritional support
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem). Now afebrile off all antibiotics,
   could represent drug fever
   **Investigation for infection source so far:
   - C. diff neg x 2
   - fluid collection in stomach, however not amenable to drainage due to
   location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   hold off on working it up further
   - pleural fluid labs
 so far NGTD
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Consider repeat LP if all the above investigations negative for
   source of fever. However likely low yield, and pt is coagulopathic.
   - will check respiratory virus screen.
   - F/u ID, neuro, and neurosurg recs
   - [**Month (only) 51**] be central (CNS) in etiology, however it
s a diagnosis of
   exclusion; unlikely since MRI brain did not show any bilateral
   hypothalamic lesions, less likely
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Likely having a very slow GI bleed.  Hct has been
   stable over the last several days.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI [**Hospital1 7**]
   .
   # Hyponatremia: Was stable in low 130s. Now improving to mid-130s
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue thiamine repletion
   .
   # Coagulopathy: INR stable around 2. Likely due to alcoholic liver
   disease and malnutrition. Vit K given during this admission.
   - Will need Vit K and FFP before procedures to reverse coagulopathy
   - follow Hct.
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.  Lasix 40 mg IV x 1
   given 2L positive yesterday.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt.
   .
   # Access: Left subclavian (placed [**4-4**]), A-line
   .
   # Code: full
   .
   # Communication: Patient/ Parents
   .
   # Disposition: Pending above, consider trach/PEG if no improvement by
   next week
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-8**] 01:52 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Arterial Line - [**2191-4-7**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-10 06:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: wet beri beri
   24 Hour Events:
   - Neuro to comment today on neurologic recovery from beri-beri
   - Per Dr. [**Last Name (STitle) 1526**] would expect high output HF to have recoved by now;
   would rec looking for other causes of tachycardia and fever other than
   beri beri
   - Started B6/pyridoxine repletion at 50 mg PO daily (only getting 15 mg
   in MVI)
   - V-tach, EKG unchanged, lytes okay
   - started on captopril for HTN
   - bedside ultrasound showed minimal ascites
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-7**] 08:22 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-4-7**] 11:15 AM
   Ciprofloxacin - [**2191-4-7**] 12:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-4-9**] 12:25 PM
   Pantoprazole (Protonix) - [**2191-4-9**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-10**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.7
   HR: 119 (113 - 127) bpm
   BP: 161/80(109) {142/67(92) - 168/88(113)} mmHg
   RR: 31 (22 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 7 (1 - 12)mmHg
   Total In:
                                                                  1,606 mL
                                                                    337 mL
   PO:
   TF:
                                                                  1,138 mL
                                                                    277 mL
   IVF:
                                                                    148 mL
   Blood products:
   Total out:
                                                                  1,845 mL
                                                                    300 mL
   Urine:
                                                                  1,845 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -239 mL
                                                                     37 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 261 (261 - 517) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.45/39/110/25/2
   NIF: -30 cmH2O
   Ve: 10.6 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: cachectic, intubated. Alert.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, ETT
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds, +rhonchi
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: 2+ edema in dependent areas
   Neurologic: eyes open but not tracking. Not following commands. Moving
   lips but unsure if this is indeed purposeful.
   Labs / Radiology
   232 K/uL
   8.4 g/dL
   120 mg/dL
   0.4 mg/dL
   25 mEq/L
   4.1 mEq/L
   22 mg/dL
   111 mEq/L
   139 mEq/L
   25.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2191-4-7**]  08:27 PM
                             [**2191-4-8**]  02:35 AM
                             [**2191-4-8**]  02:50 AM
                             [**2191-4-8**]  06:35 AM
                             [**2191-4-8**]  12:49 PM
                             [**2191-4-9**]  05:02 AM
                             [**2191-4-9**]  05:16 AM
                             [**2191-4-9**]  05:15 PM
                             [**2191-4-10**]  03:25 AM
                             [**2191-4-10**]  03:43 AM
   WBC
   12.7
   10.0
   8.7
   Hct
   24.6
   25.1
   25.2
   Plt
   [**Telephone/Fax (3) 6165**]
   Cr
   0.5
   0.4
   0.5
   0.4
   TCO2
   24
   26
   27
   25
   29
   28
   Glucose
   149
   124
   119
   120
   Other labs: PT / PTT / INR:19.4/42.8/1.8, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:37/73, Alk Phos / T Bili:105/1.4,
   Amylase / Lipase:63/193, Differential-Neuts:83.7 %, Lymph:10.1 %,
   Mono:4.5 %, Eos:1.5 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL,
   LDH:259 IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   No new imaging today
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for
   persistent tachycardia/dyspnea and fevers
   .
   # Tachypnea / Respiratory distress: Patient with good RSBI and NIF
   yesterday however extubation was not attempted due to pt
s profound
   muscle weakness and concern that he may tire quickly and require
   re-intubation.
   - Consider transition directly to trach/PEG. Will discuss this with
   pt
s parents first.
   - BAL done for worsening Chest CT findings
 F/U results
 if pos for
   hemosiderin-laden Macros, then check ANCA, anti-basement membrane:
   pathology still pending.  ANCA and anti-GBM ordered and results
   pending.
   .
   # Tachycardia: Not fluid responsive.  Likely related to fever,
   cardiomyopathy, and underlying central disease.
   .
   # Altered mental status:  Multiple etiologies
 chronic EtOH ingestion,
   delirium from current acute illness, ICU setting, liver dysfunction,
   dry beri beri and central pontine myelinolysis.
   - central pontine myelinolysis seen MRI brain [**2191-4-5**]. MRA is okay,
   ruling out ischemic etiology. Likely due to fast correction of
   hyponatremia on admission. Appreciate neuron recs; unfortunately, it
   an irreversible process. Can cause visual problems.
   - Minimize sedating medications. Zyprexa may work better for delirium
   component of his mental status.
   - f/u neuro recs re: prognosis for cognitive recovery, any other
   necessary tests for work up, and the use of zyprexa for discomfort and
   agitation
   - No need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Continue Keppra until outpt f/u with neuron for question of seizure
   activity earlier in admission
   - continue nutritional support
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem). Now afebrile off all antibiotics,
   could represent drug fever
   **Investigation for infection source so far:
   - Bronch
 BAL so far unrevealing. F/u on outstanding studies.
   - C. diff neg x 2
   - fluid collection in stomach seen on imaging, however not amenable to
   drainage due to location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   hold off on working it up further
   - pleural fluid labs
 so far NGTD
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Consider repeat LP if all the above investigations negative for
   source of fever. However likely low yield, and pt is coagulopathic.
   - Consider paracentesis, although not much ascitic fluid seen by U/S.
   ([**Month (only) 51**] need IR for this)
   - RSV neg
   - F/u ID, neuro, and neurosurg recs
   - [**Month (only) 51**] be central (CNS) in etiology, however it
s a diagnosis of
   exclusion; considered unlikely since MRI brain did not show any
   bilateral hypothalamic lesions, however still in differential.
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Likely having a very slow GI bleed.  Hct has been
   stable over the last several days.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI [**Hospital1 7**]
   .
   # Hyponatremia: Was stable in low 130s. Now improving to mid-130s
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue thiamine repletion
   .
   # Coagulopathy: INR stable around 2. Likely due to alcoholic liver
   disease and malnutrition. Vit K given during this admission.
   - Will need Vit K and FFP before procedures to reverse coagulopathy
   - follow Hct.
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.  Lasix 40 mg IV x 1
   given 2L positive yesterday.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt.
   .
   # Access: Left subclavian (placed [**4-4**]), A-line
   .
   # Code: full
   .
   # Communication: Patient/ Parents; need to discuss prognosis and
   transition to Trach/PEG if desired.
   .
   # Disposition: Pending above; contact IP if pt will transition to
   Trach/PEG. Once Trach/PEG in place, ask case management to start
   screening for placement.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-9**] 08:01 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Arterial Line - [**2191-4-7**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-11 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt's parents verbally agreed to Trach and PEG - IP to place them
   tomorrow. Pt is NPO past MN for this and will need 2 units FFP on call
   to IP. (IP - [**Doctor First Name **] [**Pager number 6185**])
   - new rash (slightly raised blanchable punctate lesions on
   trunk>extremities): likely early drug rash. Will evolve/expand distally
   over the next few days. Watch for any systemic symptoms or new mucosal
   lesions.
   - Hypertensive to 140s -150s systolic, gave captopril early. ? increase
   dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-10**] 07:30 PM
   Fentanyl - [**2191-4-11**] 04:18 AM
   Heparin Sodium (Prophylaxis) - [**2191-4-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-11**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 116 (113 - 126) bpm
   BP: 140/98(117) {101/65(83) - 173/122(136)} mmHg
   RR: 16 (15 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 7 (6 - 7)mmHg
   Total In:
                                                                  1,781 mL
   PO:
   TF:
                                                                  1,261 mL
   IVF:
                                                                     20 mL
   Blood products:
   Total out:
                                                                  1,035 mL
                                                                    370 mL
   Urine:
                                                                  1,035 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 567 (472 - 1,020) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 98
   PIP: 17 cmH2O
   SpO2: 94%
   ABG: ///23/
   Ve: 10.3 L/min
   Physical Examination
   General Appearance: cachectic, intubated. Alert.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, ETT
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds, +rhonchi
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: 2+ edema in dependent areas
   Neurologic: eyes open but not tracking. Not following commands. Moving
   lips but unsure if this is indeed purposeful.
   Labs / Radiology
   225 K/uL
   8.5 g/dL
   109 mg/dL
   0.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   19 mg/dL
   111 mEq/L
   140 mEq/L
   24.3 %
   9.7 K/uL
        [image002.jpg]
                             [**2191-4-8**]  02:35 AM
                             [**2191-4-8**]  02:50 AM
                             [**2191-4-8**]  06:35 AM
                             [**2191-4-8**]  12:49 PM
                             [**2191-4-9**]  05:02 AM
                             [**2191-4-9**]  05:16 AM
                             [**2191-4-9**]  05:15 PM
                             [**2191-4-10**]  03:25 AM
                             [**2191-4-10**]  03:43 AM
                             [**2191-4-11**]  02:51 AM
   WBC
   12.7
   10.0
   8.7
   9.7
   Hct
   24.6
   25.1
   25.2
   24.3
   Plt
   [**Telephone/Fax (3) 6186**]25
   Cr
   0.5
   0.4
   0.5
   0.4
   0.4
   TCO2
   26
   27
   25
   29
   28
   Glucose
   149
   124
   119
   120
   109
   Other labs: PT / PTT / INR:19.8/44.0/1.8, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:81/142, Alk Phos / T Bili:192/1.2,
   Amylase / Lipase:63/193, Differential-Neuts:74.6 %, Lymph:14.2 %,
   Mono:7.1 %, Eos:3.6 %, Lactic Acid:0.7 mmol/L, Albumin:2.1 g/dL,
   LDH:280 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for
   persistent tachycardia/dyspnea and fevers
   .
   # Tachypnea / Respiratory distress: Patient with good RSBI and NIF over
   weekend however extubation was not attempted due to pt
s profound
   muscle weakness and concern that he may tire quickly and require
   re-intubation.
   - Will have Trach/PEG today [**4-11**]
   - BAL done for worsening Chest CT findings
 F/U results
 if pos for
   hemosiderin-laden Macros, pathology still pending.  ANCA and anti-GBM
   ordered and results pending.
   .
   # Tachycardia: Not fluid responsive. Stable. Likely related to fever,
   cardiomyopathy, and underlying central disease. Also starting to become
   hypertensive. Will not increase captopril at this time due to overall
   status.
   .
   # Altered mental status:  Multiple etiologies
 chronic EtOH ingestion,
   delirium from current acute illness, ICU setting, liver dysfunction,
   dry beri beri and central pontine myelinolysis.
   - central pontine myelinolysis seen MRI brain [**2191-4-5**]. MRA is okay,
   ruling out ischemic etiology. Likely due to fast correction of
   hyponatremia on admission. Appreciate Neuro recs; unfortunately, it
   an irreversible process. Can cause visual problems.
   - Minimize sedating medications. Zyprexa may work better for delirium
   component of his mental status.
   - f/u neuro recs re: prognosis for cognitive recovery, any other
   necessary tests for work up, and the use of zyprexa for discomfort and
   agitation
   - No need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Consider d/c Keppra for possible drug rash
 f/u with Neuro
   - continue nutritional support
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem). Was afebrile off all antibiotics,
   which could represent drug fever, but now T max 100.5F [**4-11**]
   **Investigation for infection source so far:
   - Bronch
 BAL so far unrevealing. F/u on outstanding studies.
   - C. diff neg x 2
   - fluid collection in stomach seen on imaging, however not amenable to
   drainage due to location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   hold off on working it up further
   - pleural fluid labs
 so far NGTD
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Consider repeat LP if all the above investigations negative for
   source of fever. However likely low yield, and pt is coagulopathic.
   - Consider paracentesis, although not much ascitic fluid seen by U/S.
   ([**Month (only) 51**] need IR for this)
   - RSV neg
   - F/u ID, neuro, and neurosurg recs
   - [**Month (only) 51**] be central (CNS) in etiology, however it
s a diagnosis of
   exclusion; considered unlikely since MRI brain did not show any
   bilateral hypothalamic lesions, however still in differential.
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Likely having a very slow GI bleed.  Hct has been
   stable over the last several days.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI [**Hospital1 7**]
   .
   # Hyponatremia: Was stable in low 130s. Now improving to mid-130s
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue B vitamins at increased doses, incl thiamine and pyridoxine
   .
   # Coagulopathy: INR stable around 2. Likely due to alcoholic liver
   disease and malnutrition. Vit K given during this admission.
   - Will need Vit K and FFP before procedures to reverse coagulopathy (2U
   FFP today [**4-11**] prior to trach/PEG)
   - follow Hct.
   .
   # Rash: developed raised, blanchable lesions trunk > extremities [**4-10**]
   - Derm input: watch for signs of mucosal involvement
   - Consider d/c Keppra
 f/u with Neuro
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt.
   .
   # Access: Left subclavian (placed [**4-4**]), A-line, PICC to be placed
   .
   # Code: full
   .
   # Communication: Patient/ Parents.
   .
   # Disposition: Once Trach/PEG in place, ask case management to start
   screening for placement.
   - Family would like the patient to go to [**Hospital 189**] Rehab once medically
   ready.
   - Need to ask SW or case management to help file long-term disability
   papers.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2191-4-4**] 04:53 PM
   Arterial Line - [**2191-4-7**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-12 06:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2191-4-11**] 03:25 PM
 PAN CULTURE - At [**2191-4-11**] 04:20 PM
 MULTI LUMEN - STOP [**2191-4-11**] 04:40 PM
 FEVER - 101.7
F - [**2191-4-11**] 02:55 PM
   - Keppra d/c'd as high suspicion for cause of morbilliform drug rash.
   Discussed w/ neuro.
   - Received 2U FFP on [**4-10**] -> INR 1.8 -> Got 2 more Units FFP
   - Tracheostomy at bedside.
   - BAL Cultures: Negative for legionella, pneumocystis, fungus rsv. No
   growth on cultures. Repeat BAL sent during Trach placement.
   - No PEG due to abd rash.
   - No PICC b/c febrile. Placed 16 gauge PIV. Pulled CVL, cultured Tip.
   - Spiked to 100.9. Sent repeat Blood Cx, Urine Cx.
   - Neurosurg Recs: If concern for extra-axial fluid as cause of fever,
   repeat MRI w/ contrast.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2191-4-11**] 03:22 PM
   Vecuronium - [**2191-4-11**] 03:25 PM
   Propofol - [**2191-4-11**] 03:25 PM
   Fentanyl - [**2191-4-11**] 03:35 PM
   Pantoprazole (Protonix) - [**2191-4-11**] 07:55 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-12**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-12**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.9
C (100.3
   HR: 119 (108 - 129) bpm
   BP: 145/73(97) {119/62(82) - 193/128(138)} mmHg
   RR: 21 (8 - 27) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  2,106 mL
                                                                    451 mL
   PO:
             TF:
                                                                    365 mL
                                                                    382 mL
   IVF:
                                                                    169 mL
                                                                     69 mL
   Blood products:
                                                                  1,152 mL
   Total out:
                                                                  1,095 mL
                                                                    265 mL
   Urine:
                                                                  1,095 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 359 (359 - 557) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.50/37/109/27/5
   Ve: 8.6 L/min
   PaO2 / FiO2: 273
   Physical Examination
   General Appearance: cachectic, intubated. Alert.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, ETT
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds, +rhonchi
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: 2+ edema in dependent areas
   Neurologic: eyes open but not tracking. Not following commands. Moving
   lips but unsure if this is indeed purposeful.
   Labs / Radiology
   205 K/uL
   8.2 g/dL
   124 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.6 mEq/L
   17 mg/dL
   113 mEq/L
   144 mEq/L
   23.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2191-4-8**]  12:49 PM
                             [**2191-4-9**]  05:02 AM
                             [**2191-4-9**]  05:16 AM
                             [**2191-4-9**]  05:15 PM
                             [**2191-4-10**]  03:25 AM
                             [**2191-4-10**]  03:43 AM
                             [**2191-4-11**]  02:51 AM
                             [**2191-4-12**]  03:37 AM
                             [**2191-4-12**]  04:13 AM
                             [**2191-4-12**]  05:58 AM
   WBC
   10.0
   8.7
   9.7
   6.7
   Hct
   25.1
   25.2
   24.3
   23.6
   Plt
   237
   232
   225
   205
   Cr
   0.4
   0.5
   0.4
   0.4
   0.4
   TCO2
   25
   29
   28
   28
   30
   Glucose
   124
   119
   120
   109
   124
   Other labs: PT / PTT / INR:19.3/39.7/1.8, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:69/114, Alk Phos / T Bili:167/1.1,
   Amylase / Lipase:63/193, Differential-Neuts:74.6 %, Lymph:14.2 %,
   Mono:7.1 %, Eos:3.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:214 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for
   persistent tachycardia/dyspnea and fevers
   .
   # Tachypnea / Respiratory distress: Patient with good RSBI and NIF over
   weekend however extubation was not attempted due to pt
s profound
   muscle weakness and concern that he may tire quickly and require
   re-intubation.
   - Will have Trach/PEG today [**4-11**]
   - BAL done for worsening Chest CT findings
 F/U results
 if pos for
   hemosiderin-laden Macros, pathology still pending.  ANCA and anti-GBM
   ordered and results pending.
   .
   # Tachycardia: Not fluid responsive. Stable. Likely related to fever,
   cardiomyopathy, and underlying central disease. Also starting to become
   hypertensive. Will not increase captopril at this time due to overall
   status.
   .
   # Altered mental status:  Multiple etiologies
 chronic EtOH ingestion,
   delirium from current acute illness, ICU setting, liver dysfunction,
   dry beri beri and central pontine myelinolysis.
   - central pontine myelinolysis seen MRI brain [**2191-4-5**]. MRA is okay,
   ruling out ischemic etiology. Likely due to fast correction of
   hyponatremia on admission. Appreciate Neuro recs; unfortunately, it
   an irreversible process. Can cause visual problems.
   - Minimize sedating medications. Zyprexa may work better for delirium
   component of his mental status.
   - f/u neuro recs re: prognosis for cognitive recovery, any other
   necessary tests for work up, and the use of zyprexa for discomfort and
   agitation
   - No need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Consider d/c Keppra for possible drug rash
 f/u with Neuro
   - continue nutritional support
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem). Was afebrile off all antibiotics,
   which could represent drug fever, but now T max 100.5F [**4-11**]
   **Investigation for infection source so far:
   - Bronch
 BAL so far unrevealing. F/u on outstanding studies.
   - C. diff neg x 2
   - fluid collection in stomach seen on imaging, however not amenable to
   drainage due to location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   hold off on working it up further
   - pleural fluid labs
 so far NGTD
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Consider repeat LP if all the above investigations negative for
   source of fever. However likely low yield, and pt is coagulopathic.
   - Consider paracentesis, although not much ascitic fluid seen by U/S.
   ([**Month (only) 51**] need IR for this)
   - RSV neg
   - F/u ID, neuro, and neurosurg recs
   - [**Month (only) 51**] be central (CNS) in etiology, however it
s a diagnosis of
   exclusion; considered unlikely since MRI brain did not show any
   bilateral hypothalamic lesions, however still in differential.
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Likely having a very slow GI bleed.  Hct has been
   stable over the last several days.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI [**Hospital1 7**]
   .
   # Hyponatremia: Was stable in low 130s. Now improving to mid-130s
   - Highest on differential is SIADH due to pulmonary processes; will
   monitor Na for now and if worsens, do a trial of free water
   restriction.
   - TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue B vitamins at increased doses, incl thiamine and pyridoxine
   .
   # Coagulopathy: INR stable around 2. Likely due to alcoholic liver
   disease and malnutrition. Vit K given during this admission.
   - Will need Vit K and FFP before procedures to reverse coagulopathy (2U
   FFP today [**4-11**] prior to trach/PEG)
   - follow Hct.
   .
   # Rash: developed raised, blanchable lesions trunk > extremities [**4-10**]
   - Derm input: watch for signs of mucosal involvement
   - Consider d/c Keppra
 f/u with Neuro
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt.
   .
   # Access: Left subclavian (placed [**4-4**]), A-line, PICC to be placed
   .
   # Code: full
   .
   # Communication: Patient/ Parents.
   .
   # Disposition: Once Trach/PEG in place, ask case management to start
   screening for placement.
   - Family would like the patient to go to [**Hospital 189**] Rehab once medically
   ready.
   - Need to ask SW or case management to help file long-term disability
   papers.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-11**] 05:22 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-7**] 07:00 PM
   16 Gauge - [**2191-4-11**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-13 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID informed of continued fevers & feel it is drug fever & rash
   - PT/OT consulted
   - did well on trach mask trial
   - MRI head performed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-13**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37
C (98.6
   HR: 112 (95 - 115) bpm
   BP: 155/82(109) {105/72(95) - 176/101(123)} mmHg
   RR: 21 (9 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  1,340 mL
                                                                    471 mL
   PO:
             TF:
                                                                  1,050 mL
                                                                    388 mL
   IVF:
                                                                    230 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    375 mL
   Urine:
                                                                    805 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    535 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (416 - 465) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.50/34/166/23/4
   Ve: 11.8 L/min
   PaO2 / FiO2: 415
   Physical Examination
   General Appearance: cachectic, intubated. Alert.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, ETT
   Cardiovascular: tachycardic, hyperdynamic.
   Respiratory / Chest: Tachypneic, coarse upper airway sounds, +rhonchi
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: 2+ edema in dependent areas
   Neurologic: Moves hands and toes on command.
   Skin: morbilliform rash
 more confluent.
   Labs / Radiology
   198 K/uL
   8.4 g/dL
   105 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   114 mEq/L
   143 mEq/L
   24.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2191-4-9**]  05:15 PM
                             [**2191-4-10**]  03:25 AM
                             [**2191-4-10**]  03:43 AM
                             [**2191-4-11**]  02:51 AM
                             [**2191-4-12**]  03:37 AM
                             [**2191-4-12**]  04:13 AM
                             [**2191-4-12**]  05:58 AM
                             [**2191-4-12**]  09:45 AM
                             [**2191-4-12**]  01:03 PM
                             [**2191-4-13**]  03:01 AM
   WBC
   8.7
   9.7
   6.7
   9.7
   Hct
   25.2
   24.3
   23.6
   24.9
   Plt
   232
   225
   205
   198
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   28
   30
   30
   27
   Glucose
   119
   120
   109
   124
   105
   Other labs: PT / PTT / INR:18.6/51.3/1.7, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:69/114, Alk Phos / T Bili:167/1.1,
   Amylase / Lipase:63/193, Differential-Neuts:74.6 %, Lymph:14.2 %,
   Mono:7.1 %, Eos:3.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:214 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for
   persistent tachycardia/dyspnea and fevers
   .
   # Tachypnea / Respiratory distress: Patient with good RSBI and NIF over
   weekend however extubation was not attempted due to pt
s profound
   muscle weakness and concern that he may tire quickly and require
   re-intubation.  Trach placed [**4-11**].
   - Will attempt trach mask trial
   - Still awaiting BAL results (if pos for hemosiderin-laden Macros,
   pathology still pending).  ANCA and anti-GBM ordered and results
   pending.
   .
   # Tachycardia: Not fluid responsive. Stable. Likely related to fever,
   cardiomyopathy, and underlying central disease. Also starting to become
   hypertensive.
   - stop captopril due to propensity to cause rashes
   - start metoprolol 12.5 mg TID and titrate upward as necessary
   .
   # Altered mental status:  Multiple etiologies
 chronic EtOH ingestion,
   delirium from current acute illness, ICU setting, liver dysfunction,
   dry beri beri and central pontine myelinolysis.
   - potential central pontine myelinolysis seen MRI brain [**2191-4-5**]. MRA is
   okay, ruling out ischemic etiology. Likely due to fast correction of
   hyponatremia on admission. Appreciate Neuro recs; unfortunately, it
   an irreversible process. Can cause visual problems.
   - Minimize sedating medications. Zyprexa may work better for delirium
   component of his mental status.
   - f/u neuro recs re: prognosis for cognitive recovery, any other
   necessary tests for work up, and the use of zyprexa for discomfort and
   agitation
   - No need for lactulose as patient is having large amounts of liquid
   diarrhea
   - Keppra stopped as potential cause for rash
 f/u with Neuro
   - continue nutritional support
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem) and was less febrile off all
   antibiotics.  Fever last night could represent drug fever.  ID has
   signed off, but will let them know that he is still spiking fevers.
   **Investigation for infection source so far:
   - Bronch
 BAL so far unrevealing. F/u on outstanding studies.
   - C. diff neg multiple times
   - fluid collection in stomach seen on imaging, however not amenable to
   drainage due to location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   repeat MRI [**4-12**]
   - pleural fluid labs
 so far NGTD
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
   - Consider repeat LP if all the above investigations negative for
   source of fever. However likely low yield, and pt is coagulopathic.
   - Consider paracentesis, although not much ascitic fluid seen by U/S.
   ([**Month (only) 51**] need IR for this)
   - RSV neg
   - F/u ID, neuro, and neurosurg recs
   - [**Month (only) 51**] be central (CNS) in etiology, however it
s a diagnosis of
   exclusion; considered unlikely since MRI brain did not show any
   bilateral hypothalamic lesions, however still in differential.
   .
   # Anemia: Pt has many reasons to be anemic; malnutrition, illness,
   guaiac pos stools. Likely having a very slow GI bleed.  Hct has been
   stable over the last several days.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI [**Hospital1 7**]
   .
   # Hyponatremia: Resolved.  Was stable in low 130s. Now improved to mid
   140s.
   - TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue B vitamins at increased doses, incl thiamine and pyridoxine
   .
   # Coagulopathy: INR stable around 2. Likely due to alcoholic liver
   disease and malnutrition. Vit K given during this admission.
   - Will need Vit K and FFP before procedures to reverse coagulopathy (2U
   FFP [**4-11**] prior to trach/PEG)
   - follow Hct.
   .
   # Rash: developed raised, blanchable lesions trunk > extremities [**4-10**]
   - Derm input: watch for signs of mucosal involvement
   - Keppra and captopril stopped
 f/u with Neuro
   .
   # Etoh: Outside window for withdrawal.
   - SW consult.
   # FEN: No IVF, replete electrolytes, on tube feeds.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt.
   .
   # Access: Left subclavian removed (placed [**4-4**]), A-line, peripheral,
   PICC to be placed
   .
   # Code: full
   .
   # Communication: Patient/ Parents.
   .
   # Disposition: Once Trach/PEG in place, ask case management to start
   screening for placement.
   - Family would like the patient to go to [**Hospital 189**] Rehab once medically
   ready.
   - Need to ask SW or case management to help file long-term disability
   papers.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2191-4-13**] 12:00 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-7**] 07:00 PM
   16 Gauge - [**2191-4-11**] 04:00 PM
   20 Gauge - [**2191-4-12**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-14 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MRI read
   1. Unchanged small left subdural collection. Evaluation for contrast
   enhancement is again technically limited by patient motion artifact.
   2. Slightly increased prominence of the geographic focal T2-signal
   abnormality in the central pons, which may relate to further evolution
   and/or technical factors; the appearance remains in keeping with
   central pontine myelinolysis, as suggested previously, which could be
   correlated with volume/serum osmolality shifts at time of its
   development. There is no evidence of extra-pontine myelinolysis.
   3. No new intracranial process.
   (Basically no change)
   - No rehab bed [**4-13**]
   - d/c'd foley. has a condom cath now, draining well
   - ANCA neg
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-4-13**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2191-4-13**] 08:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-14**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100
   HR: 112 (91 - 112) bpm
   BP: 158/75(103) {138/66(88) - 178/107(120)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  1,838 mL
                                                                    381 mL
   PO:
                  TF:
                                                                  1,325 mL
                                                                    381 mL
   IVF:
                                                                    163 mL
   Blood products:
   Total out:
                                                                    803 mL
                                                                      0 mL
   Urine:
                                                                    803 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,035 mL
                                                                    381 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 35%
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: cachectic,. Alert. Nods to yes/no questions
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, trach
   tube C/D/I
   Cardiovascular: RRR
   Respiratory / Chest: Coarse upper airway sounds, +rhonchi bilaterally,
   occas cough
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: 2+ edema in dependent areas
   Neurologic: Moves hands and toes on command.
   Skin: morbilliform rash
 more confluent.
   Labs / Radiology
   198 K/uL
   8.4 g/dL
   105 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   114 mEq/L
   143 mEq/L
   24.9 %
   9.7 K/uL
        [image002.jpg]
                             [**2191-4-9**]  05:15 PM
                             [**2191-4-10**]  03:25 AM
                             [**2191-4-10**]  03:43 AM
                             [**2191-4-11**]  02:51 AM
                             [**2191-4-12**]  03:37 AM
                             [**2191-4-12**]  04:13 AM
                             [**2191-4-12**]  05:58 AM
                             [**2191-4-12**]  09:45 AM
                             [**2191-4-12**]  01:03 PM
                             [**2191-4-13**]  03:01 AM
   WBC
   8.7
   9.7
   6.7
   9.7
   Hct
   25.2
   24.3
   23.6
   24.9
   Plt
   232
   225
   205
   198
   Cr
   0.5
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   28
   30
   30
   27
   Glucose
   119
   120
   109
   124
   105
   Other labs: PT / PTT / INR:18.6/51.3/1.7, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:69/114, Alk Phos / T Bili:167/1.1,
   Amylase / Lipase:63/193, Differential-Neuts:74.6 %, Lymph:14.2 %,
   Mono:7.1 %, Eos:3.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:214 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for
   persistent tachycardia/dyspnea and fever unknown origin
   .
   # Tachypnea / Respiratory distress: Patient with good RSBI and NIF over
   weekend however extubation was not attempted due to pt
s profound
   muscle weakness and concern that he may tire quickly and require
   re-intubation.  Trach placed [**4-11**].
   - Cont trach mask
   - BAL results (neg for hemosiderin-laden Macros).  ANCA negand anti-GBM
   remains pending, but not likely to be positive.
   .
   # Tachycardia: Not fluid responsive. Stable. Likely related to fever,
   cardiomyopathy, and underlying central disease. Is staying
   normotensive.
   - Captopril d/c
d due to propensity to cause rashes
   - Increase metoprolol to 25 mg TID and titrate upward as necessary
   .
   # Altered mental status:  Appears to be improving. Multiple etiologies
 chronic EtOH ingestion, delirium from current acute illness, ICU
   setting, liver dysfunction, dry beri beri and central pontine
   myelinolysis seen MRI brain [**2191-4-5**]. Repeat MRI shows unchanged small
   subdural defect and continued evolution of likely central pontine
   myelinolysis. Likely due to fast correction of hyponatremia on
   admission. Appreciate Neuro recs; unfortunately, it
s an irreversible
   process. Can cause visual problems.
   - Minimize sedating medications. Zyprexa may work better for delirium
   component of his mental status.
   - f/u neuro recs
 will follow up as outpatient
   - Repeat MRI head
 essentially unchanged
   - Cont to hold lactulose as patient is having large amounts of liquid
   diarrhea
   - Keppra stopped as potential cause for rash
 added to allergy list
   - continue nutritional support
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem) and was less febrile off all
   antibiotics, wich is c/w drug fever.  ID agrees w/ drug fever.
   **Investigation for infection source so far:
   - Bronch
 BAL negative
   - C. diff neg multiple times
   - fluid collection in stomach seen on imaging, however not amenable to
   drainage due to location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   repeat MRI [**4-12**], unchanged. [**Month (only) 51**] be central (CNS) in etiology, however
   it
s a diagnosis of exclusion; considered unlikely since MRI brain did
   not show any bilateral hypothalamic lesions, however still in
   differential.
   - recent sputum and urine pos for yeast
   - pleural fluid labs
 so far NGTD
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
 have been negative recently
   - RSV neg
   - F/u ID, neuro, and neurosurg recs
 no new issues
   .
   # Anemia: Stable HCT at 23-25 over past several days. Pt has many
   reasons to be anemic; malnutrition, illness, guaiac pos stools. Likely
   having a very slow GI bleed.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI changed to qday
   .
   # Hyponatremia: Resolved.  Was stable in low 130s. Now improved to mid
   140s. TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Na, Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue B vitamins at increased doses, incl thiamine and pyridoxine
   .
   # Coagulopathy: INR drifting down without treatment to 1.7. Likely due
   to alcoholic liver disease and malnutrition. Vit K given during this
   admission. Needs Vit K and FFP prior to invasive procedures.
   - follow coags/Hct.
   .
   # Rash: developed raised, blanchable lesions trunk > extremities [**4-10**]
   - Derm input: watch for signs of mucosal involvement
 none to date
   - Keppra and captopril stopped for possible drug reaction
   .
   # Etoh: Outside window for withdrawal.  Social Work following
   .
   # FEN: Replete electrolytes, stable on tube feeds.  Dobhoff in place as
   G tube cannot be placed in setting of  truncal rash.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt
 OOB to chair
   .
   # Access: Left subclavian removed (placed [**4-4**]), A-line to be d/c
   peripheral, Foley changed to condom cath
   .
   # Code: full
   .
   # Communication: Patient/ Parents.
   .
   # Disposition: Trach in place, Dobhoff until rash resolves. CM and PT
   screen for rehab: [**Hospital 189**] Rehab. Likely today. SW helping to file
   long-term disability papers.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-4-14**] 01:05 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2191-4-7**] 07:00 PM
   16 Gauge - [**2191-4-11**] 04:00 PM
   20 Gauge - [**2191-4-12**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-15 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Rehab screen
   - Might get PEG tube in AM as truncal rash resolving.
 ARTERIAL LINE - STOP [**2191-4-14**] 10:39 AM
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-4-14**] 09:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-15**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.1
C (98.8
   HR: 106 (89 - 106) bpm
   BP: 132/80(92) {98/48(60) - 154/91(102)} mmHg
   RR: 25 (22 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                  1,660 mL
                  PO:
                  TF:
                                                                  1,330 mL
   IVF:
   Blood products:
   Total out:
                                                                    550 mL
                                                                    180 mL
   Urine:
                                                                    550 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,110 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: ////
   Physical Examination
   General Appearance: cachectic,. Alert. Nods to yes/no questions
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube, trach
   tube C/D/I
   Cardiovascular: RRR
   Respiratory / Chest: Coarse upper airway sounds, +rhonchi bilaterally,
   occas cough
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: 2+ edema in dependent areas
   Neurologic: Moves hands and toes on command.
   Skin: morbilliform rash
 more confluent.
   Labs / Radiology
   168 K/uL
   8.5 g/dL
   105 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   114 mEq/L
   143 mEq/L
   25.7 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-10**]  03:25 AM
                             [**2191-4-10**]  03:43 AM
                             [**2191-4-11**]  02:51 AM
                             [**2191-4-12**]  03:37 AM
                             [**2191-4-12**]  04:13 AM
                             [**2191-4-12**]  05:58 AM
                             [**2191-4-12**]  09:45 AM
                             [**2191-4-12**]  01:03 PM
                             [**2191-4-13**]  03:01 AM
                             [**2191-4-15**]  03:02 AM
   WBC
   8.7
   9.7
   6.7
   9.7
   8.6
   Hct
   25.2
   24.3
   23.6
   24.9
   25.7
   Plt
   232
   225
   205
   198
   168
   Cr
   0.4
   0.4
   0.4
   0.4
   TCO2
   28
   28
   30
   30
   27
   Glucose
   120
   109
   124
   105
   Other labs: PT / PTT / INR:18.2/38.6/1.7, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:69/114, Alk Phos / T Bili:167/1.1,
   Amylase / Lipase:63/193, Differential-Neuts:74.6 %, Lymph:14.2 %,
   Mono:7.1 %, Eos:3.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:214 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri now transferred to ICU for
   persistent tachycardia/dyspnea and fever unknown origin
   .
   # Tachypnea / Respiratory distress: Extubated and trach placed [**4-11**]. CXR
   improved.
   - Cont trach mask to keep O2 sats > 93%
   - BAL results (neg for hemosiderin-laden Macros).  ANCA neg and
   anti-GBM remains pending, but not likely to be positive.
   .
   # Tachycardia: Not fluid responsive. Stable. Likely related to fever,
   cardiomyopathy, and underlying central disease. Is staying
   normotensive.
   - Captopril d/c
d due to propensity to cause rashes
   - Increase metoprolol to 25 mg TID
 will wait for outpatient follow up
   before increasing dose
   .
   # Altered mental status:  Appears to be improving. Multiple etiologies
 chronic EtOH ingestion, delirium from current acute illness, ICU
   setting, liver dysfunction, dry beri beri and central pontine
   myelinolysis seen MRI brain [**2191-4-5**]. Repeat MRI shows unchanged small
   subdural defect and continued evolution of likely central pontine
   myelinolysis. Likely due to fast correction of hyponatremia on
   admission. Appreciate Neuro recs; unfortunately, it
s an irreversible
   process. Can cause visual problems.
   - Minimize sedating medications. Zyprexa may work better for delirium
   component of his mental status.
   - f/u neuro recs
 will follow up as outpatient
   - Repeat MRI head
 essentially unchanged
   - Cont to hold lactulose as patient is having large amounts of liquid
   diarrhea
   - Keppra stopped as potential cause for rash
 added to allergy list
   - continue nutritional support
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem) and was less febrile off all
   antibiotics, wich is c/w drug fever.  ID agrees w/ drug fever.
   **Investigation for infection source so far:
   - Bronch
 BAL negative
   - C. diff neg multiple times
   - fluid collection in stomach seen on imaging, however not amenable to
   drainage due to location.
   - small fluid collection extra-axially on MRI brain; not an abscess;
   repeat MRI [**4-12**], unchanged. [**Month (only) 51**] be central (CNS) in etiology, however
   it
s a diagnosis of exclusion; considered unlikely since MRI brain did
   not show any bilateral hypothalamic lesions, however still in
   differential.
   - recent sputum and urine pos for yeast
 likely non-pathologic at this
   time
   - pleural fluid labs
 so far NGTD
   - Continue oral hygiene; check for skin break down
   - Surveillance cultures
 have been negative recently
   - RSV neg
   - F/u ID, neuro, and neurosurg recs
 no new issues
   .
   # Anemia: Stable HCT at 23-25 over past several days. Pt has many
   reasons to be anemic; malnutrition, illness, guaiac pos stools. Likely
   resolving slow GI bleed.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI changed to qday
   .
   # Hyponatremia: Resolved.  Was stable in low 130s. Now improved to mid
   140s. TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   - Trend Na, Cr
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue B vitamins at increased doses, incl thiamine and pyridoxine
   .
   # Coagulopathy: INR normalizing without treatment to 1.7. Likely due to
   alcoholic liver disease and malnutrition. Vit K given during this
   admission. Needs Vit K and FFP prior to invasive procedures.
   - follow coags/Hct.
   .
   # Rash: developed raised, blanchable lesions trunk > extremities [**4-10**]
   - Derm input: watch for signs of mucosal involvement
 none to date
   - Keppra and captopril stopped for possible drug reaction
   .
   # Etoh: Outside window for withdrawal.  Social Work following
   .
   # FEN: Replete electrolytes, stable on tube feeds.  Dobhoff in place as
   G tube cannot be placed in setting of  truncal rash.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt
 OOB to chair
   .
   # Access: Left subclavian removed (placed [**4-4**]), A-line to be d/c
   peripheral, Foley changed to condom cath
   .
   # Code: full
   .
   # Communication: Patient/ Parents.
   .
   # Disposition: Trach in place, Dobhoff until rash resolves. CM and PT
   screen for rehab: [**Hospital 189**] Rehab. Likely today. SW helping to file
   long-term disability papers.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2191-4-11**] 04:00 PM
   20 Gauge - [**2191-4-12**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2191-04-16 06:49:00 Physician Resident Progress Note
Chief Complaint: weakness, altered mental status
   24 Hour Events:
 PEG INSERTION - At [**2191-4-15**] 03:29 PM w/ IP at bedside. PEG to
   gravity, tube feeds not to start until afternoon of [**4-16**]. AM Hct stable
   @25.1.
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-15**] 03:45 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2191-4-15**] 04:14 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-16**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-4-16**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 103 (84 - 110) bpm
   BP: 132/79(91) {105/49(63) - 144/104(111)} mmHg
   RR: 27 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
                  Total In:
                                                                    846 mL
                                                                     50 mL
   PO:
                  TF:
   IVF:
                                                                    215 mL
   Blood products:
                                                                    581 mL
   Total out:
                                                                  1,095 mL
                                                                    250 mL
   Urine:
                                                                  1,095 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -249 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 457 (457 - 457) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: cachectic,. Alert, oriented x 3.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Dobhoff in
   place,, trach tube C/D/I
   Cardiovascular: RRR, hyperdynamic
   Respiratory / Chest: Good air movement bilaterally. Upper airway
   sounds.
   Abdominal: Soft, Non-tender, Bowel sounds present;
   Extremities: [**2-4**]+ edema in dependent areas, improving
   Neurologic: strength 2-3+ in extremities, improved.
   Skin: morbilliform rash now gone in the truncal area, remains in the
   extremities.
   Labs / Radiology
   168 K/uL
   8.5 g/dL
   105 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   114 mEq/L
   143 mEq/L
   25.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-10**]  03:43 AM
                             [**2191-4-11**]  02:51 AM
                             [**2191-4-12**]  03:37 AM
                             [**2191-4-12**]  04:13 AM
                             [**2191-4-12**]  05:58 AM
                             [**2191-4-12**]  09:45 AM
                             [**2191-4-12**]  01:03 PM
                             [**2191-4-13**]  03:01 AM
                             [**2191-4-15**]  03:02 AM
                             [**2191-4-16**]  05:30 AM
   WBC
   9.7
   6.7
   9.7
   8.6
   Hct
   24.3
   23.6
   24.9
   25.7
   25.1
   Plt
   [**Telephone/Fax (3) 6298**]68
   Cr
   0.4
   0.4
   0.4
   TCO2
   28
   28
   30
   30
   27
   Glucose
   109
   124
   105
   Other labs: ([**4-15**])  PT / PTT / INR:18.2/38.6/1.7
   Assessment and Plan
   This is a 39 y/o M w/ wet beri-beri, transferred to ICU for persistent
   tachycardia/dyspnea and fever unknown origin. Received trach/PEG and
   now clinically improved.
   .
   # Tachypnea / Respiratory distress: Extubated and trach placed [**4-11**].
   Doing well on trach mask.
   - Cont trach mask to keep O2 sats > 93%
   - anti-GBM negative
   .
   # Tachycardia: Not fluid responsive. Stable. Likely related to
   resolving high output fever, cardiomyopathy, and underlying central
   disease. Is staying normotensive. Responding well to metoprolol.
   - Captopril d/c
d due to propensity to cause rashes
   - Continue metoprolol 25 mg TID
   .
   # Altered mental status: Much improved now. Alert and oriented x 3 and
   appropriate.  Multiple etiologies
 chronic EtOH ingestion, delirium
   from current acute illness, ICU setting, liver dysfunction, dry beri
   beri and central pontine myelinolysis seen MRI which was likely due to
   fast correction of hyponatremia on admission. Repeat MRI essentially
   the same. Appreciate Neuro recs; unfortunately, it
s an irreversible
   process. Can also cause visual problems.
   - f/u neuro recs
 will follow up as outpatient
   .
   # Fevers: Persistent fevers despite broad spectrum abx coverage (cipro,
   flagyl, vanc, zosyn -> meropenem). Extensive infectious work up all
   negative. Became less febrile off all antibiotics, which is c/w drug
   fever.  ID agrees w/ drug fever.
   .
   # Anemia: Stable HCT at 23-25 over past several days. Pt has many
   reasons to be anemic; malnutrition, illness, guaiac pos stools. Likely
   resolving slow GI bleed.
   - Maintain Hct >21
   - Keep an active type and cross
   - PPI changed to qday
   .
   # Hyponatremia: Resolved.  Was stable in low 130s. Now improved to mid
   140s. TSH WNL and appropriate response to [**Last Name (un) 402**] stim test
   .
   # Beri-Beri: Dry/Wet features, echo hyperdynamic.
   - Continue B vitamins at increased doses, incl thiamine and pyridoxine
   .
   # Coagulopathy: INR normalizing without treatment to 1.7. Likely due to
   alcoholic liver disease and malnutrition. Vit K given during this
   admission. Received 2U FFP prior to PEG yesterday. Needs Vit K and FFP
   prior to invasive procedures.
   - follow coags/Hct.
   .
   # Rash: developed raised, blanchable lesions trunk > extremities [**4-10**].
   Now resolving
   - Derm input: likely drug reaction; watch for signs of mucosal
   involvement
 none to date
   - Keppra and captopril stopped for possible drug reaction (Keppra more
   likely to cause rash and fever)
   .
   # FEN: Replete electrolytes. PEG ok for meds only until afternoon
   today. Then can start Tube Feeds.
   .
   # Prophylaxis: Pneumoboots, PPI; PT working with pt
 OOB to chair
   .
   # Access: PIV
   .
   # Code: full
   .
   # Communication: Patient/ Parents.
   .
   # Disposition: Trach and PEG in place. Plan to D/C to [**Hospital1 189**] in AM.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2191-4-11**] 04:00 PM
   20 Gauge - [**2191-4-12**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6299**], MSIV

2191-04-16 09:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   39 yo man with beriberi, fevers tachycardia, poor MS, weakness.  Had
   T+G.  MS is improved and is now ready to go to rehab.
   24 Hour Events:
 PEG INSERTION - At [**2191-4-15**] 03:29 PM
   Allergies:
   Keppra (Oral) (Levetiracetam)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2191-4-15**] 03:45 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2191-4-15**] 04:14 PM
   Heparin Sodium (Prophylaxis) - [**2191-4-16**] 06:10 AM
   Other medications:
   folate
   MVI
   vitamin B
   thiamine
   s/q heparin
   chlorhex
   vitamin b6
   lopressor
   lansoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Genitourinary: No(t) Dysuria
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated
   Flowsheet Data as of  [**2191-4-16**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 99 (84 - 110) bpm
   BP: 112/67(77) {105/49(63) - 142/104(111)} mmHg
   RR: 22 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
                  Total In:
                                                                    846 mL
                                                                     50 mL
   PO:
                  TF:
   IVF:
                                                                    215 mL
   Blood products:
                                                                    581 mL
   Total out:
                                                                  1,095 mL
                                                                    265 mL
   Urine:
                                                                  1,095 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -249 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 457 (457 - 457) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): hospital, and time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   168 K/uL
   105 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   17 mg/dL
   114 mEq/L
   143 mEq/L
   25.1 %
   8.6 K/uL
        [image002.jpg]
                             [**2191-4-10**]  03:43 AM
                             [**2191-4-11**]  02:51 AM
                             [**2191-4-12**]  03:37 AM
                             [**2191-4-12**]  04:13 AM
                             [**2191-4-12**]  05:58 AM
                             [**2191-4-12**]  09:45 AM
                             [**2191-4-12**]  01:03 PM
                             [**2191-4-13**]  03:01 AM
                             [**2191-4-15**]  03:02 AM
                             [**2191-4-16**]  05:30 AM
   WBC
   9.7
   6.7
   9.7
   8.6
   Hct
   24.3
   23.6
   24.9
   25.7
   25.1
   Plt
   [**Telephone/Fax (3) 6298**]68
   Cr
   0.4
   0.4
   0.4
   TCO2
   28
   28
   30
   30
   27
   Glucose
   109
   124
   105
   Other labs: PT / PTT / INR:18.2/38.6/1.7, CK / CKMB /
   Troponin-T:38//0.04, ALT / AST:69/114, Alk Phos / T Bili:167/1.1,
   Amylase / Lipase:63/193, Differential-Neuts:74.6 %, Lymph:14.2 %,
   Mono:7.1 %, Eos:3.6 %, Lactic Acid:0.8 mmol/L, Albumin:2.3 g/dL,
   LDH:214 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Beriberi:  weakness and poor MS is slowly improving.  On vitamins
   Fevers:  still having low grade temps, but no clear infectious
   sources.
   Rash:  Keppra stopped in doing better.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2191-4-11**] 04:00 PM
   20 Gauge - [**2191-4-12**] 08:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes